US05605905
Cerium ammonium nitrate (284 mg, 0.5 mmol) was added in small portions to a stirred suspension of 3-ethyl-5,8-dimethoxy-1H-quinolin-2-one(50 mg, 0.2 mmol) in water (0.5 ml) and acetonitrile (1 ml). After 5 minutes at room temperature, water (3 ml) was added and the reaction mixture was extracted with chloroform (3×20 ml), yielding 3-ethyl-1H-quinoline-2,5,8-trione (44 mg, 100 %). The analytical sample was obtained by rapid silica gel chromatography, eluting with ethyl ether.

reactant | Cerium ammonium nitrate | 0.5 mmol, 284 mg | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | 3-ethyl-5,8-dimethoxy-1H-quinolin-2-one | 0.2 mmol, 50 mg | C(C)C=1C(NC2=C(C=CC(=C2C1)OC)OC)=O | C13H15NO3
solvent | water | 0.5 ml | O | H2O
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | water | 3 ml | O | H2O
product | 3-ethyl-1H-quinoline-2,5,8-trione | 44 mg, 100 % | C(C)C=1C(NC=2C(C=CC(C2C1)=O)=O)=O | C11H9NO3
